US05679791
Preparation of N-{4-Chloro-2-fluoro-5-[hexahydro-2,4,6-trioxo-3-(2-propynyl)-s-triazin-1-yl]phenyl}-1-cyclohexene-1,2-dicarboximide
A solution of 1-(5-amino-2-chloro-4-fluorophenyl)-3-(2-propynyl)-s-triazine-2,4,6-(1H,3H,5H)-trione (1.50 g, 4.83 mmol), and 3,4,5,6-tetrahydrophthalic anhydride (0.73 g, 4.83 mmol) in acetic acid (3 mL) is heated at 100° C. for 5 hours, cooled, and poured into ethyl acetate. The organic mixture is washed sequentially with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a yellow semi-solid. Flash column chromatography of the semi-solid using silica gel and an ethyl acetate/hexanes (1:2) solution gives the title product as a white solid (1.20 g, mp 127°-135° C.).

reactant | 1-(5-amino-2-chloro-4-fluorophenyl)-3-(2-propynyl)-s-triazine-2,4,6-(1H,3H,5H)-trione | 4.83 mmol, 1.50 g | NC=1C(=CC(=C(C1)N1C(N(C(NC1=O)=O)CC#C)=O)Cl)F | C12H8ClFN4O3
reactant | 3,4,5,6-tetrahydrophthalic anhydride | 4.83 mmol, 0.73 g | C1(C2=C(C(=O)O1)CCCC2)=O | C8H8O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | N-{4-Chloro-2-fluoro-5-[hexahydro-2,4,6-trioxo-3-(2-propynyl)-s-triazin-1-yl]phenyl}-1-cyclohexene-1,2-dicarboximide | 1.20 g | ClC1=CC(=C(C=C1N1C(N(C(NC1=O)=O)CC#C)=O)N1C(=O)C2=C(CCCC2)C1=O)F | C20H14ClFN4O5
